US07078477B2
Into a 5-L separable glass flask equipped with a Dimroth condenser, were charged 450 g of 1,2,4,5-cyclohexanetetracarboxylic acid thus obtained and 4000 g of acetic anhydride, and the inner atmosphere was replaced with nitrogen gas while stirring the contents. The contents were heated to a refluxing temperature of the solvent in nitrogen gas atmosphere to reflux the solvent for 10 min, and thereafter, cooled to room temperature under stirring to precipitate crystals. The crystals were subjected to solid-liquid separation and dried to obtain primary crystals. The mother liquor was concentrated under reduced pressure using a rotary evaporator to precipitate crystals. The precipitated crystals were subjected to solid-liquid separation and dried to obtain secondary crystals. Thus, 375 g of 1,2,4,5-cyclohexanetetracarboxylic dianhydride in total of the primary and secondary crystals was obtained (anhydration yield: 96.6%).

reactant | 1,2,4,5-cyclohexanetetracarboxylic acid | 450 g | C1(C(CC(C(C1)C(=O)O)C(=O)O)C(=O)O)C(=O)O | C10H12O8
reactant | acetic anhydride | 4000 g | C(C)(=O)OC(C)=O | C4H6O3
product | 1,2,4,5-cyclohexanetetracarboxylic dianhydride | 375 g, yield: 96.6% | C1C2C(CC3C1C(=O)OC3=O)C(=O)OC2=O | C10H8O6
